US08071592B2
6-({[((3S,4S)-4-hydroxy-1-{2-[7-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-3-pyrrolidinyl)methyl]amino}methyl)-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one hydrochloride
1-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-(methyloxy)-2(1H)-quinolinone (116 mg, 0.365 mmol) and 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde (for a synthesis see WO2003087098, Example 31(e)) (72 mg, 0.402 mmol) were combined in anhydrous DCM (5 ml) and anhydrous MeOH (1 ml) with a spatula of solid sodium carbonate. The reaction mixture was stirred under nitrogen for 18 h then sodium triacetoxyborohydride (243 mg, 1.1 mmol) was added and stirred for 1 h. The reaction mixture was concentrated and purified to obtain the free base of the title compound as a pale yellow oil (91 mg, 40%) after column chromatography (90:10:1:DCM:MeOH:NH4OH).

reactant | 1-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-(methyloxy)-2(1H)-quinolinone | 0.365 mmol, 116 mg | NC[C@H]1CN(C[C@H]1O)CCN1C(C=CC2=CC=C(C=C12)OC)=O | C17H23N3O3
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde | O=C1NC2=C(OC1)C=CC(=N2)C=O | C8H6N2O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium triacetoxyborohydride | 1.1 mmol, 243 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1 ml | CO | CH4O
product | 6-({[((3S,4S)-4-hydroxy-1-{2-[7-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-3-pyrrolidinyl)methyl]amino}methyl)-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one hydrochloride | 91 mg, 40% | Cl.O[C@H]1[C@H](CN(C1)CCN1C(C=CC2=CC=C(C=C12)OC)=O)CNCC=1C=CC=2OCC(NC2N1)=O | InChI=1S/C25H29N5O5.ClH/c1-34-19-5-2-16-3-7-24(33)30(20(16)10-19)9-8-29-13-17(21(31)14-29)11-26-12-18-4-6-22-25(27-18)28-23(32)15-35-22;/h2-7,10,17,21,26,31H,8-9,11-15H2,1H3,(H,27,28,32);1H/t17-,21+;/m0./s1
